US08084484B2
b) 2-(4-Nitro-phenyl)-propionic acid ethyl ester
To a stirred solution of (4-Nitro-phenyl)-acetic acid ethyl ester (3.88 g) in DMF (15 mL) was slowly added sodium hydride (0.78 g) and iodomethane (1.21 mL) at 0□. After stirred for 14 h at room temperature, this reaction mixture was quenched with water. This mixture was extracted with diethyl ether, and combined organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The resulting residue was chromatographed on silica gel (n-Hex:EtOAc=10:1 to 4:1) to afford the product as pale yellow oil. (89.1%)

reactant | (4-Nitro-phenyl)-acetic acid ethyl ester | 3.88 g | C(C)OC(CC1=CC=C(C=C1)[N+](=O)[O-])=O | C10H11NO4
reactant | sodium hydride | 0.78 g | [H-].[Na+]
reactant | iodomethane | 1.21 mL | IC | CH3I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-(4-Nitro-phenyl)-propionic acid ethyl ester | C(C)OC(C(C)C1=CC=C(C=C1)[N+](=O)[O-])=O | C11H13NO4
